US04721721
The Preparation of 6-(2-Guanidino-5-Ethylthiazol-4-yl)-3,4-Dihydrocarbostyril
A mixture of 6-(α-bromobutanoyl)-3,4-dihydrocarbostyril (7 g), amidinothiourea (2.9 g) and absolute ethanol (250 ml) is stirred at reflux overnight. The reaction mixture is cooled to ice bath temperature and the solid filtered, washed, dried and suspended in aqueous sodium hydroxide. The neutralized solid is filtered, washed with water, dried in vacuo and recrystallized from 50% aqueous DMF and boiling water affording the desired product, M.P. 230° C. (dec).

reactant | 6-(α-bromobutanoyl)-3,4-dihydrocarbostyril | 7 g | BrC(C(CC)C=1C=C2CCC(NC2=CC1)=O)=O | C13H14BrNO2
reactant | amidinothiourea | 2.9 g | C(N)(=N)NC(=S)N | C2H6N4S
reactant | ethanol | 250 ml | C(C)O | C2H6O
product | 6-(2-Guanidino-5-Ethylthiazol-4-yl)-3,4-Dihydrocarbostyril | N(C(=N)N)C=1SC(=C(N1)C=1C=C2CCC(NC2=CC1)=O)CC | C15H17N5OS
